US07592471B2
Synthesis of trihydridobis(propylcyclopentadienyl)tantalum (Ta(PrCp)2H3)
80.0 g (223 mmol) of tantalum pentachloride was suspended in 1,340 ml of ether, and 324 ml (220 mmol) of isopropyl magnesium bromide (0.68M THF solution) was added thereto. A solution of 50.2 g (440 mmol) of propylcyclopentadienyl lithium prepared from propylcylopentadiene and butyl lithium in THF (380 ml) was added, followed by refluxing for 1 hour. The solvent was distilled away, and the residue was dried at 80° C. in vacuo for 8 hours to obtain a brownish-red solid containing dichlorobis(propylcyclopentadienyl)tantalum (Ta (PrCp)2Cl2). 2,100 ml of toluene was added to this brownish-red solid, and the resulting mixture was ice-cooled. 198 ml (660 mmol) of a toluene solution (65 wt %) of sodium bis(2-methoxyethoxy)aluminum hydride was added dropwise to the mixture, and temperature was returned to room temperature, followed by stirring for 19.5 hours. 106 ml of water was added to the mixture, followed by stirring until foaming does not occur. Insoluble contents were filtered out, and the solvent was distilled away from the filtrate. 2,000 ml of hexane was added to the residue, the insoluble contents were filtered out, and the filtrate was concentrated to about 800 ml. When the concentrated liquid was cooled to −70° C., a white solid was formed. A supernatant was removed, and the solid was washed with 40 ml of cold pentane two times to obtain 11.2 g (yield: 12.8%) of a white solid.

reactant | tantalum pentachloride | 223 mmol, 80.0 g | [Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Ta+5]
reactant | isopropyl magnesium bromide | 220 mmol, 0.68M, 324 ml | C(C)(C)[Mg]Br
reactant | propylcyclopentadienyl lithium | 440 mmol, 50.2 g | C(CC)C1(C=CC=C1)[Li]
reactant | propylcylopentadiene | C(CC)C1=CC=CC1 | C8H12
reactant | butyl lithium | C(CCC)[Li]
reactant | dichlorobis(propylcyclopentadienyl)tantalum | Cl[Ta](C1(C=CC=C1)CCC)(C1(C=CC=C1)CCC)Cl
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | ether | 1,340 ml | CCOCC | C4H10O
solvent | THF | 380 ml | C1CCOC1 | C4H8O
solvent | water | 106 ml | O | H2O
solvent | toluene | 2,100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 660 mmol, 198 ml | C1(=CC=CC=C1)C | C7H8
product | trihydridobis(propylcyclopentadienyl)tantalum | 11.2 g, yield: 12.8% | C(CC)C1(C=CC=C1)[TaH3]C1(C=CC=C1)CCC | InChI=1S/2C8H11.Ta.3H/c2*1-2-5-8-6-3-4-7-8;;;;/h2*3-4,6-7H,2,5H2,1H3;;;;
